* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Buck_Loadstep_diff_fc.sxsch - 副本.sxsch
*#SIMETRIX
.node_map Vc1 73
.node_map Vc2 76
.node_map Vp1 74
.node_map Vp2 77
.node_map Vout1 72
.node_map Vout2 75
.ac DEC 100 100 1Meg
.print
+ ALL
.options
+ PSP_START=3m
+ PSP_NPT=2001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.pop
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=10u
+ CONVERGENCE=10f
+ CYCLES_BEFORE_LAUNCH=100
+ TD_RUN_AFTER_POP_FAILS=-1
.tran 20m 0


C 72 43 1m IC=1.8
C1 48 73 1n IC=0
C13 75 61 1m IC=1.8
C14 67 76 3.9p IC=0
C15 68 67 97.09p IC=0
C2 50 49 76.92p IC=0
C3 49 73 5.14p IC=0
C4 66 76 250p IC=0
I1 72 0 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES IDLE_IN_POP=YES
I4 75 0 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES IDLE_IN_POP=YES
V$IPROBE1 40 72 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="auto" persistence=-1 curveLabel="IL(fc=80kHz)" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
V$IPROBE3 58 75 0.0
.PRINT I(V$IPROBE3)
.GRAPH IPROBE3#P axisType="grid" persistence=-1 curveLabel="IL(fc=1kHz)" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L 38 39 150n
L1 56 57 150n
.PRINT V(#Vc2)
.PRINT V(#Vp2)
.GRAPH "db(:#Vc2/:#Vp2)" Curvelabel="GT" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc2/:#Vp2)" Curvelabel="PT" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vc2)
.PRINT V(#Vout2)
.GRAPH "db(:#Vc2/:#Vout2)" Curvelabel="Gc" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc2/:#Vout2)" Curvelabel="Pc" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout1)
.GRAPH :#Vout1 axisType="auto" persistence=4 curveLabel="Vout(fc=80kHz)" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.PRINT V(#Vc1)
.PRINT V(#Vout1)
.GRAPH "db(:#Vc1/:#Vout1)" Curvelabel="Gc" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc1/:#Vout1)" Curvelabel="Pc" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vc1)
.PRINT V(#Vp1)
.GRAPH "db(:#Vc1/:#Vp1)" Curvelabel="GT" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc1/:#Vp1)" Curvelabel="PT" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout2)
.GRAPH :#Vout2 axisType="auto" persistence=4 curveLabel="Vout(fc=1kHz)" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe6  
R1 72 49 100k
R13 67 66 62.82k
R14 75 68 10.1k
R15 75 67 100k
R2 49 48 78.74k
R3 72 50 12.75k
Rc 43 0 1m
Rc1 61 0 1m
Rl 40 39 2m
Rl1 58 57 2m
Ro 72 0 200m
Ro1 75 0 200m
X$S1 37 38 41 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S2 38 0 42 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S3 56 0 60 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S4 55 56 59 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U1 41 42 0 74 51 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
X$U2 59 60 0 77 69 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V1 37 0 12
V13 69 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V14 77 76 AC 1m 0
V15 55 0 12
V2 53 0 5
V3 51 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V4 52 0 2
V5 74 73 AC 1m 0
V7 70 0 2
V8 71 0 5
X1 41 54 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
X2 52 49 53 0 73 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
X6 70 67 71 0 76 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
.end
