* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Buck_Loadstep_diff_fc.sxsch.sxsch
*#SIMETRIX
.node_map io1 127
.node_map io2 131
.node_map io3 135
.node_map Vc1 130
.node_map Vc2 134
.node_map Vc3 138
.node_map Vp1 129
.node_map Vp2 133
.node_map Vp3 137
.node_map Vout1 128
.node_map Vout2 132
.node_map Vout3 136
.ac DEC 100 100 1Meg
.print
+ ALL
.options
+ PSP_START=3m
+ PSP_NPT=2001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.pop
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=10u
+ CONVERGENCE=10f
+ CYCLES_BEFORE_LAUNCH=100
+ TD_RUN_AFTER_POP_FAILS=-1
*.tran 20m 0


C 128 64 1m IC=1.8
C10 97 96 62.89p IC=0
C11 96 138 1.12p IC=0
C12 95 138 125p IC=0
C13 132 79 1m IC=1.8
C20 136 93 1m IC=1.8
C4 68 67 76.92p IC=0
C5 67 130 5.14p IC=0
C6 66 130 1n IC=0
C7 82 134 389.65p IC=0
C8 83 82 78.74p IC=0
C9 81 134 18.868n IC=0
H1 131 0 VH1$TP_CCVS 1 
VH1$TP_CCVS 80 0 0
H2 127 0 VH2$TP_CCVS 1 
VH2$TP_CCVS 65 0 0
H3 135 0 VH3$TP_CCVS 1 
VH3$TP_CCVS 94 0 0
I1 128 0 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES IDLE_IN_POP=YES
I2 128 65 AC 10m 0
I3 132 80 AC 10m 0
I4 132 0 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES IDLE_IN_POP=YES
I5 136 94 AC 10m 0
I6 136 0 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES IDLE_IN_POP=YES
V$IPROBE1 61 128 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="auto" persistence=-1 curveLabel="IL(fc=80kHz)" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
V$IPROBE3 76 132 0.0
.PRINT I(V$IPROBE3)
.GRAPH IPROBE3#P axisType="grid" persistence=-1 curveLabel="IL(fc=1kHz)" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
V$IPROBE6 90 136 0.0
.PRINT I(V$IPROBE6)
.GRAPH IPROBE6#P axisType="grid" persistence=-1 curveLabel="IL(fc=200kHz)" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L 59 60 150n
L1 74 75 150n
L2 88 89 150n
.PRINT V(#Vout1)
.PRINT V(#io1)
.GRAPH "db(:#Vout1/:#io1)" Curvelabel="GZo_fc80kHz" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vout1/:#io1)" Curvelabel="PZo_fc80kHz" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout2)
.PRINT V(#io2)
.GRAPH "db(:#Vout2/:#io2)" Curvelabel="GZo_fc1kHz" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vout2/:#io2)" Curvelabel="PZo_fc1kHz" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout3)
.PRINT V(#io3)
.GRAPH "db(:#Vout3/:#io3)" Curvelabel="GZo_fc200kHz" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vout3/:#io3)" Curvelabel="PZo_fc200kHz" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout1)
.GRAPH :#Vout1 axisType="auto" persistence=4 curveLabel="Vout(fc=80kHz)" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.PRINT V(#Vout2)
.GRAPH :#Vout2 axisType="auto" persistence=4 curveLabel="Vout(fc=1kHz)" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe6  
.PRINT V(#Vout3)
.GRAPH :#Vout3 axisType="auto" persistence=4 curveLabel="Vout(fc=200kHz)" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe7  
R10 136 97 15.59k
R11 96 95 261.44k
R12 136 96 100k
R4 67 66 78.74k
R5 128 67 100k
R6 128 68 12.75k
R7 132 82 100k
R8 82 81 980
R9 132 83 12.45k
Rc 64 0 1m
Rc1 79 0 1m
Rc2 93 0 1m
Rl 61 60 2m
Rl1 76 75 2m
Rl2 90 89 2m
Ro 128 0 200m
Ro1 132 0 200m
Ro2 136 0 200m
X$S1 58 59 62 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S2 59 0 63 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S3 74 0 78 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S4 73 74 77 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S5 88 0 92 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S6 87 88 91 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U1 62 63 0 129 69 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
X$U2 77 78 0 133 84 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
X$U3 91 92 0 137 98 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V1 58 0 12
V10 85 0 2
V11 100 0 5
V12 99 0 2
V13 84 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V14 133 134 AC 0 0
V15 73 0 12
V20 137 138 AC 0 0
V23 98 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V24 87 0 12
V3 69 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V5 129 130 AC 0 0
V7 70 0 2
V8 71 0 5
V9 86 0 5
X1 62 72 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
X3 70 67 71 0 130 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
X4 85 82 86 0 134 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
X5 99 96 100 0 138 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
.end
