* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Buck_Loadstep_fixduty.sxsch
*#SIMETRIX
.node_map Vp 24
.node_map Vout 23
*** SD COMMENT ***.ac DEC 100 10 1Meg
.print  ALL
.options  PSP_START=3m  PSP_NPT=10001  POP_ITRMAX=200  POP_OUTPUT_CYCLES=5  SNAPSHOT_INTVL=0  MIN_AVG_TOPOLOGY_DUR=1a  AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*** SD COMMENT ***.pop  TRIG_GATE={TRIG_GATE}  TRIG_COND=0_TO_1  MAX_PERIOD=2u  CONVERGENCE=10f  CYCLES_BEFORE_LAUNCH=200  TD_RUN_AFTER_POP_FAILS=0
.tran 20m 0

C 23 18 1m IC=2
I1 23 19 SQU V1=5 V2=25 FREQ=200 DELAY=0.004 OFF_UNTIL_DELAY=YES
V$IPROBE1 15 23 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="grid" persistence=-1 curveLabel="IL" analysis="tran|ac|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
V$IPROBE2 19 0 0.0
.PRINT I(V$IPROBE2)
.GRAPH IPROBE2#P axisType="grid" persistence=-1 curveLabel="Istep" analysis="tran|ac|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L 13 14 150n
.PRINT V(#Vout)
.PRINT V(#Vp)
.GRAPH "db(:#Vout/:#Vp)" Curvelabel="Gc" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vout/:#Vp)" Curvelabel="Pc" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vout)
.GRAPH :#Vout axisType="auto" persistence=-1 curveLabel="Vout" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
Rc 18 0 1m
Rl 15 14 2m
Ro 23 0 200m
X$S2 13 0 17 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S3 12 13 16 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U1 16 17 0 24 20 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V1 24 21 AC 1m 0
V3 20 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V6 21 0 167m
V8 12 0 12
X3 16 22 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
X_SystemDesigner_Clock_Source 0 SIMPLIS_SD_CLK_TREE_1 vars: SYNC_ON=1 SYS_ORDER=0 SYS_CLK_EN=1 SYS_GRAPH=1 SYS_CLK_LABEL='SysClock' SYS_FREQ=50Meg SYS_DUTY=50 SYS_DELAY=-1 USER_ORDER_1=1 USER_EN_1=0 USER_GRAPH_1=0 USER_LABEL_1='User1' USER_FREQ_1=25Meg USER_DUTY_1=50 USER_DELAY_1=-1 USER_ORDER_2=2 USER_EN_2=0 USER_GRAPH_2=0 USER_LABEL_2='User2' USER_FREQ_2=12.5Meg USER_DUTY_2=50 USER_DELAY_2=-1 USER_ORDER_3=3 USER_EN_3=0 USER_GRAPH_3=0 USER_LABEL_3='User3' USER_FREQ_3=6.25Meg USER_DUTY_3=50 USER_DELAY_3=-1 USER_ORDER_4=4 USER_EN_4=0 USER_GRAPH_4=0 USER_LABEL_4='User4' USER_FREQ_4=3.125Meg USER_DUTY_4=50 USER_DELAY_4=-1 USER_ORDER_5=5 USER_EN_5=0 USER_GRAPH_5=0 USER_LABEL_5='User5' USER_FREQ_5=1.5625Meg USER_DUTY_5=50 USER_DELAY_5=-1 USER_ORDER_6=6 USER_EN_6=0 USER_GRAPH_6=0 USER_LABEL_6='User6' USER_FREQ_6=0.781250Meg USER_DUTY_6=50 USER_DELAY_6=-1 USER_ORDER_7=7 USER_EN_7=0 USER_GRAPH_7=0 USER_LABEL_7='User7' USER_FREQ_7=0.390625Meg USER_DUTY_7=50 USER_DELAY_7=-1

.END
